US08541588B2
5-chloro-N-(5-chloro-1,3-thiazol-2-yl)-N-(2,4-dimethoxybenzyl)-2,4-difluorobenzenesulfonamide
Prepared according to Preparation 207 using 5-chloro-N-(2,4-dimethoxybenzyl)-1,3-thiazol-2-amine (Preparation 208) and 5-chloro-2,4-difluorobenzenesulfonyl chloride.

reactant | 5-chloro-N-(2,4-dimethoxybenzyl)-1,3-thiazol-2-amine | ClC1=CN=C(S1)NCC1=C(C=C(C=C1)OC)OC | C12H13ClN2O2S
reactant | 5-chloro-2,4-difluorobenzenesulfonyl chloride | ClC=1C(=CC(=C(C1)S(=O)(=O)Cl)F)F | C6H2Cl2F2O2S
product | 5-chloro-N-(5-chloro-1,3-thiazol-2-yl)-N-(2,4-dimethoxybenzyl)-2,4-difluorobenzenesulfonamide | ClC=1C(=CC(=C(C1)S(=O)(=O)N(CC1=C(C=C(C=C1)OC)OC)C=1SC(=CN1)Cl)F)F | C18H14Cl2F2N2O4S2
